US06316389B1
H-1: 1-methyl-2-(prop-2-ynyloxy)benzene
245 g of potassium carbonate and 75 ml of propargyl chloride are added to a solutions of 96 g of o-cresol in 1500 ml of acetonitrile. The mixture is now heated for 14 hours at 65°, cooled to room temperature, and filtered with suction, and the filtrate is evaporated. The residue is taken up in 150 ml of ethyl acetate, the mixture is filtered with suction and the filtrate is evaporated. This gives 134 g of the total compound as a pale brown oil.

reactant | potassium carbonate | 245 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl chloride | 75 ml | C(C#C)Cl | C3H3Cl
reactant | o-cresol | 96 g | C1(=CC=CC=C1O)C | C7H8O
solvent | acetonitrile | 1500 ml | C(C)#N | C2H3N
product | 1-methyl-2-(prop-2-ynyloxy)benzene | CC1=C(C=CC=C1)OCC#C | C10H10O
